US05990116
5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-amino Benzoic Acid Methylester (Process e)
87 mg of 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-acetylamino benzoic acid methylester are dissolved in 6 ml of methanol, treated with 1 ml of 4 N hydrochloric acid and stirred for 48 hours at room temperature. The mixture is neutralised by addition of 2 N aqueous sodium hydroxide solution and extracted with ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated in vacuo. Purification by chromatography on silica gel (hexane/ethyl acetate=6/1) yields the title compound as colourless crystals. mp: 50-55°.

reactant | 5-[2-(2,5-dimethoxyphenyl)ethyl]-2-acetylamino benzoic acid methylester | 87 mg | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)NC(C)=O)=O | C20H23NO5
reactant | hydrochloric acid | 4 N, 1 ml | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-amino Benzoic Acid Methylester | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)N)=O | C18H21NO4
